* Sky130 PDK Library for PVDD Regulator
* Devices: nfet_g5v0d10v5, pfet_g5v0d10v5, cap_mim_m3_1, res_xhigh_po
* All 5 corners: tt, ss, ff, sf, fs

.param SKY130_SPICE = '/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice'

* ================================================================
* Parasitic model for poly resistor (simplified — cap to substrate)
* ================================================================
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
.param cpoly_area = 1e-16
.param cp = 'cpoly_area * w * l'
c0 r0 sub 'cp/2'
c1 r1 sub 'cp/2'
.ends sky130_fd_pr__model__parasitic__res_po

* ================================================================
* TT corner
* ================================================================
.lib tt

* --- Global params ---
.param mc_mm_switch = 0
* MIM cap
.param m3_dw = 0
.param tol_m3 = 0
.param camimc = 2.0e-15
.param cpmimc = 3.8e-17
.param rm3 = 0.047
.param rcvia3 = 9.3
.param tc1rm3 = 3.3e-3
.param tc2rm3 = 0
.param tc1rvia3 = 0
.param tc2rvia3 = 0
* Resistor
.param sky130_fd_pr__res_xhigh_po__var_mult = 0
* NFET g5v0d10v5 slope/diff (all 0 for nominal)
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvsat_diff = 0
* PFET g5v0d10v5 slope/diff (all 0 for nominal)
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvsat_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__tt.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__tt.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.endl tt

* ================================================================
* SS corner
* ================================================================
.lib ss

.param mc_mm_switch = 0
.param m3_dw = 0
.param tol_m3 = 0
.param camimc = 2.0e-15
.param cpmimc = 3.8e-17
.param rm3 = 0.047
.param rcvia3 = 9.3
.param tc1rm3 = 3.3e-3
.param tc2rm3 = 0
.param tc1rvia3 = 0
.param tc2rvia3 = 0
.param sky130_fd_pr__res_xhigh_po__var_mult = 0.025
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvsat_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvsat_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__ss.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__ss.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.endl ss

* ================================================================
* FF corner
* ================================================================
.lib ff

.param mc_mm_switch = 0
.param m3_dw = 0
.param tol_m3 = 0
.param camimc = 2.0e-15
.param cpmimc = 3.8e-17
.param rm3 = 0.047
.param rcvia3 = 9.3
.param tc1rm3 = 3.3e-3
.param tc2rm3 = 0
.param tc1rvia3 = 0
.param tc2rvia3 = 0
.param sky130_fd_pr__res_xhigh_po__var_mult = -0.025
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvsat_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvsat_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__ff.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__ff.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.endl ff

* ================================================================
* SF corner (slow N, fast P)
* ================================================================
.lib sf

.param mc_mm_switch = 0
.param m3_dw = 0
.param tol_m3 = 0
.param camimc = 2.0e-15
.param cpmimc = 3.8e-17
.param rm3 = 0.047
.param rcvia3 = 9.3
.param tc1rm3 = 3.3e-3
.param tc2rm3 = 0
.param tc1rvia3 = 0
.param tc2rvia3 = 0
.param sky130_fd_pr__res_xhigh_po__var_mult = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvsat_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvsat_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__sf.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__sf.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.endl sf

* ================================================================
* FS corner (fast N, slow P)
* ================================================================
.lib fs

.param mc_mm_switch = 0
.param m3_dw = 0
.param tol_m3 = 0
.param camimc = 2.0e-15
.param cpmimc = 3.8e-17
.param rm3 = 0.047
.param rcvia3 = 9.3
.param tc1rm3 = 3.3e-3
.param tc2rm3 = 0
.param tc1rvia3 = 0
.param tc2rvia3 = 0
.param sky130_fd_pr__res_xhigh_po__var_mult = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__nfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__nfet_g5v0d10v5__kvsat_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope1 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope2 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__toxe_slope3 = 0
.param sky130_fd_pr__pfet_g5v0d10v5__vth0_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__voff_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__nfactor_slope = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wlod_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wkvth0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__ku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__lku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__wku0_diff = 0
.param sky130_fd_pr__pfet_g5v0d10v5__kvsat_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__fs.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__fs.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.endl fs
